US05639752
5-Benzylamino-3-(N-methylpyrrolidin-3-yl)-1H-indole
To a stirred solution of N-methyl-3-(5-phenylcarbonylaminoindol-3-yl)succinamide (18.31 g, 52.71 mmol) in anhydrous tetrahydrofuran (270 mL) at 0° C. was added lithium aluminum hydride (20.01 g, 527 mmol, 10 eq) as a solid portionwise over 45 minutes. The resulting reaction mixture was stirred at room temperature under nitrogen for 24 hours. Sodium sulfate decahydrate (50 g) was then carefully added to the reaction mixture followed by water (5 mL) and ethyl acetate (100 mL). The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered, and the filtrate was evaporated under reduced pressure. The residual oil was column chromatographed using silica gel (approximately 500 g) and elution with ethyl acetate: methanol: triethylamine [gradient 9:0:1 to 8:1:1] to afford the title compound (7.90 g, 49%) as a pale yellow oil: 13C NMR (acetone-d6) δ142.9, 142.1, 132.3. 129.3, 128.6, 127.5, 121.9, 118.6, 112.8, 112.5, 102.0, 63.6, 57.1, 49.9, 42.8, 36.5, 33.0; FAB LRMS (m/z, relative intensity) 306 (MH+, 100), 263 (4), 248 (4), 223 (8).

reactant | N-methyl-3-(5-phenylcarbonylaminoindol-3-yl)succinamide | 52.71 mmol, 18.31 g | CNC(CC(C(=O)N)C1=CNC2=CC=C(C=C12)NC(=O)C1=CC=CC=C1)=O | C20H20N4O3
reactant | lithium aluminum hydride | 527 mmol, 20.01 g, 10 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 50 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 270 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 5-Benzylamino-3-(N-methylpyrrolidin-3-yl)-1H-indole | 7.90 g, 49% | C(C1=CC=CC=C1)NC=1C=C2C(=CNC2=CC1)C1CN(CC1)C | C20H23N3
